US03939266
7-Methylsulfonylacetamido-3-cephem-4-carboxylic acid
A solution of benzhydryl 7-amino-3-cephem-4-carboxylate (0.78 g, 2 mmol), methylsulfonylacetic acid (0.27 g, 2 mmol), and dicyclohexylcarbodiimide (0.4 g, 2 mmol) in dry tetrahydrofuran (15 ml) is stirred at room temperature overnight. The precipitate is collected and washed with tetrahydrofuran and the combined filtrate and washings are evaporated in vacuo. The residue is treated with a cold solution of trifluoroacetic acid (10 ml) and anisole (0.5 g) for 15 minutes and then concentrated in vacuo. The residue is dissolved in ethyl acetate and treated with 5% NaHCO3. The aqueous phase is adjusted to pH 2 and the precipitated product is collected and dried.

reactant | benzhydryl 7-amino-3-cephem-4-carboxylate | 2 mmol, 0.78 g | NC1[C@@H]2N(C(=CCS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C20H18N2O3S
reactant | methylsulfonylacetic acid | 2 mmol, 0.27 g | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | dicyclohexylcarbodiimide | 2 mmol, 0.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-Methylsulfonylacetamido-3-cephem-4-carboxylic acid | CS(=O)(=O)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C10H12N2O6S2
